US06509328B1
{3-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4′-trifluoromethoxy-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-4′-trifluoromethoxy-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G27) and 3-(3-cyano-phenyl)-3-oxo-propionic acid ethyl ester (Pol. J. Chem. 1978, 25) according to the general procedure K. Obtained as a brown semisolid (94 mg).

reactant | (3-amino-4′-trifluoromethoxy-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)N)=O | C18H19F3N2O3
reactant | 3-(3-cyano-phenyl)-3-oxo-propionic acid ethyl ester | C(C)OC(CC(=O)C1=CC(=CC=C1)C#N)=O | C12H11NO3
product | {3-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4′-trifluoromethoxy-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 94 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C28H24F3N3O5
